US05814631
Synthesis of 7-choro-3-(4-fluorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 16)
1.72 g (8.57 mmol) of 4-fluorobenzenesulfonylisocyanate and 1.47 g (8.57 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 815 mg of the above-identified compound (yield 26.8%). Properties: colorless crystal, Melting point: >250° C., PMR (δppm, DMSO-d6): 7.12 (1H,s), 7.23 (1H,d), 7.49-7.55 (2H,m), 7.86 (1H,d), 8.23-8.28 (2H,m), 11.90 (1H,br).

reactant | 4-fluorobenzenesulfonylisocyanate | 8.57 mmol, 1.72 g | FC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4FNO3S
reactant | 2-amino-4-chlorobenzoic acid | 8.57 mmol, 1.47 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-choro-3-(4-fluorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 815 mg, yield 26.8% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=CC=C(C=C1)F)=O | C14H8ClFN2O4S
